US06043242
2. 6-{3-[2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-methylpyridin-4-ylsulfanyl]propylsulfanyl}-3-nitroimidazo[1,2-b]pyridazine hydrochloride
A suspension of 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyrid-azine (0.39 g, 0.95 mmol) and 2-mercapto-1H-benzimidazole (160 mg, 1.05 mmol) in isopropanol (50 ml) is heated under reflux for 7 h. After cooling to room temperature, the precipitate is filtered off, washed with isopropanol and dried at 40° C. in vacuo. The title compound (0.46 g, 86%) is isolated as a beige solid. M.p. 200-207° C (dec.).

reactant | 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyrid-azine | 0.95 mmol, 0.39 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
reactant | 2-mercapto-1H-benzimidazole | 1.05 mmol, 160 mg | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 6-{3-[2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-methylpyridin-4-ylsulfanyl]propylsulfanyl}-3-nitroimidazo[1,2-b]pyridazine hydrochloride | 0.46 g, 86% | Cl.N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2C)SCCCSC=2C=CC=1N(N2)C(=CN1)[N+](=O)[O-] | InChI=1S/C23H21N7O2S3.ClH/c1-15-18(14-35-23-26-16-5-2-3-6-17(16)27-23)24-10-9-19(15)33-11-4-12-34-21-8-7-20-25-13-22(30(31)32)29(20)28-21;/h2-3,5-10,13H,4,11-12,14H2,1H3,(H,26,27);1H
